US04816582
77.2 g of ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-[(1-piperidinecarbonyl)methoxy]imino]-acetate are dissolved in 3 l of methanol and 265 ml of water and the solution is treated with 250 ml of 1N aqueous sodium hydroxide solution. The saponification is complete after 48 hours. 500 ml of water are added thereto and the methanol is removed under reduced pressure. The aqueous solution is washed with ethyl acetate, treated with 250 ml of 1N aqueous hydrochloric acid and concentrated to half of the volume. The acid which crystallizes out is filtered off and dried. There are obtained 55.3 g of 2-(2-amino-4-thiazolyl)-2-[(Z)-[(1-piperidinecarbonyl)methoxy]imino]-acetic acid of melting point 177° C.

reactant | ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-[(1-piperidinecarbonyl)methoxy]imino]-acetate | 77.2 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCC(=O)N1CCCCC1 | C14H20N4O4S
reactant | water | 265 ml | O | H2O
reactant | sodium hydroxide | 1N, 250 ml | [OH-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | methanol | 3 l | CO | CH4O
product | 2-(2-amino-4-thiazolyl)-2-[(Z)-[(1-piperidinecarbonyl)methoxy]imino]-acetic acid | 55.3 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)N1CCCCC1 | C12H16N4O4S
